US05481038
N,N-Diisopropylisobutylamine
A mixture of diisopropylamine (20.24 g, 0.2 mol) and isobutyl phenylsulfonate (29.83 g, 0.1 mol) was refluxed with stirring for 72 hours. Aqueous 5M potassium hydroxide (30 ml, 0.15 mol) was added. The organic phase was separated and the aqueous phase was extracted with n-pentane (50 ml). The organic solutions were combined, dried over anhydrous magnesium sulfate and the produce was isolated by distillation to yield 10.70 g, 68% of the title product, bp 75-77° C./45 mm Hg. 1H NMR CDCl3 δ ppm, 0.83 (d, J=6.5 Hz, 6H, CH3), 0.95 (d, J=6.5 Hz, 12H, CH3), 1.59 (nonet, J=6.5 Hz, 1H, CH), 2.10 (d, J=6.5 Hz, 2H, CH2), 2.95 (sep, J=6.5 Hz, 2H, CH).

reactant | diisopropylamine | 0.2 mol, 20.24 g | C(C)(C)NC(C)C | C6H15N
reactant | isobutyl phenylsulfonate | 0.1 mol, 29.83 g | C1(=CC=CC=C1)S(=O)(=O)OCC(C)C | C10H14O3S
reactant | potassium hydroxide | 0.15 mol, 5M, 30 ml | [OH-].[K+]
product | N,N-Diisopropylisobutylamine | 10.70 g, 68% | C(C)(C)N(C(C)C)CC(C)C | C10H23N
